US08048862B2
To a solution of crude 1-(phenoxymethyl)-2-sulfamoylbenzene (1.6 g, 6 mmol.) in 200 mL of methanol was added Pd/C (0.64 g). The reaction mixture was stirred at room temperature for 5 hours under H2 with a pressure of 30 psi. After the material was consumed, the reaction mixture was filtered. The solvent was evaporated to give crude 1-(hydroxy)-2-sulfamoylbenzene (800 mg, 80%) which was used directly without purification.

reactant | 1-(phenoxymethyl)-2-sulfamoylbenzene | 6 mmol, 1.6 g | O(C1=CC=CC=C1)CC1=C(C=CC=C1)S(N)(=O)=O | C13H13NO3S
reactant | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 0.64 g | [Pd] | Pd
product | 1-(hydroxy)-2-sulfamoylbenzene | 800 mg, 80% | OC1=C(C=CC=C1)S(N)(=O)=O | C6H7NO3S
